US03971819
B. 3-benzylamino-5-methylsulphamyl-4-phenoxy-benzoic acid
Ethyl 3-benzylamino-5-methylsulphamyl-4-phenoxy-benzoate (0.5 g) was dissolved in 1N sodium hydroxide (8 ml) and heated on a steam bath for 1 hour. After cooling, the 3-benzylamino-5-methylsulphamyl-4-phenoxy-benzoic acid was precipitated by addition of 4N hydrochloric acid until a pH of 2.5. The precipitate was collected by suction and recrystallized from aqueous ethanol. After drying in vacuo, the melting point of the compound was 231-233°C.

reactant | Ethyl 3-benzylamino-5-methylsulphamyl-4-phenoxy-benzoate | 0.5 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=CC=C1)S(NC)(=O)=O | C23H24N2O5S
solvent | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
product | 3-benzylamino-5-methylsulphamyl-4-phenoxy-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(NC)(=O)=O | C21H20N2O5S
